US07741327B2
To a stirred mixture of 4-(2-hydroxy-2-methyl-propyl)-phenol (0.850 g, 5.11 mmol) and ethyl-2-butynoate (3.45 g, 30.66 mmol) in tetrahydrofuran (20 mL) was added potassium carbonate (0.710 g, 5.11 mmol). The mixture was heated in a sealed tube at 80° C. for 5.5 h. The reaction mixture was then cooled to room temperature. The solids were isolated by filtration and washed with a small amount of tetrahydrofuran. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 0% to 30% ethyl acetate/hexanes) which afforded (E)-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester (1.16 g, 81%) as a viscous colorless oil.

reactant | 4-(2-hydroxy-2-methyl-propyl)-phenol | 5.11 mmol, 0.850 g | OC(CC1=CC=C(C=C1)O)(C)C | C10H14O2
reactant | ethyl-2-butynoate | 30.66 mmol, 3.45 g | C(C)OC(C#CC)=O | C6H8O2
reactant | potassium carbonate | 5.11 mmol, 0.710 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester | 1.16 g, 81% | C(C)OC(\C=C(/C)\OC1=CC=C(C=C1)CC(C)(C)O)=O | C16H22O4
